US04670447
1-(3-Chlorobenzoyl)-3-(1-methyl-4-piperidinyl)-1H-indazole hydrochloride
A mixture of 3.0 g of 3-(1-methyl-4-piperidinyl)-1H-indazole and 8 ml of 3-chlorobenzoyl chloride was heated at 100° C. for 2 hours. The reaction was allowed to cool, and ether was added. The resultant solid was collected and recrystallized twice from isopropyl alcohol to yield 3.7 g (67.7%) of product, mp 209°-211° C.

reactant | 3-(1-methyl-4-piperidinyl)-1H-indazole | 3.0 g | CN1CCC(CC1)C1=NNC2=CC=CC=C12 | C13H17N3
reactant | 3-chlorobenzoyl chloride | 8 ml | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
solvent | ether | CCOCC | C4H10O
product | 1-(3-Chlorobenzoyl)-3-(1-methyl-4-piperidinyl)-1H-indazole hydrochloride | 3.7 g, 67.7% | Cl.ClC=1C=C(C(=O)N2N=C(C3=CC=CC=C23)C2CCN(CC2)C)C=CC1 | InChI=1S/C20H20ClN3O.ClH/c1-23-11-9-14(10-12-23)19-17-7-2-3-8-18(17)24(22-19)20(25)15-5-4-6-16(21)13-15;/h2-8,13-14H,9-12H2,1H3;1H
